### PR TITLE
bump to v4.29.0

### PR DESCRIPTION
**Pull request by Whysoserioushah**

### CODE REVIEW

File: ClassFieldTheory/Cohomology/Functors/Restriction.lean [hunk 1]
```diff
@@ -4,9 +4,9 @@ public import
   ClassFieldTheory.Mathlib.RepresentationTheory.Homological.GroupCohomology.Functoriality
 public import ClassFieldTheory.Mathlib.RepresentationTheory.Homological.GroupHomology.Functoriality
 public import Mathlib.Algebra.Homology.HomologySequenceLemmas
-public import Mathlib.RepresentationTheory.Coinduced
 public import Mathlib.RepresentationTheory.Homological.GroupCohomology.LongExactSequence
-public import Mathlib.RepresentationTheory.Induced
+
+public import Mathlib
```
Comment (kbuzzard) [inline ClassFieldTheory/Cohomology/Functors/Restriction.lean]: Maybe remove this?

File: ClassFieldTheory/Cohomology/Functors/Restriction.lean [hunk 2]
```diff
@@ -27,17 +27,17 @@ open
...
 namespace Rep
 
-/--
-The restriction functor `Rep R G ⥤ Rep R H` for a subgroup `H` of `G`.
--/
-def res (f : H →* G) : Rep R G ⥤ Rep R H := Action.res (ModuleCat R) f
+-- /--
+-- The restriction functor `Rep R G ⥤ Rep R H` for a subgroup `H` of `G`.
+-- -/
+-- def res (f : H →* G) : Rep R G ⥤ Rep R H := Action.res (ModuleCat R) f
```
Comment (kbuzzard) [inline ClassFieldTheory/Cohomology/Functors/Restriction.lean]: Maybe remove this?

File: ClassFieldTheory/Cohomology/Functors/Restriction.lean [hunk 3]
```diff
@@ -46,80 +46,114 @@ representation `M` to `H`, as an object of `Rep R H`.
...
-  resCoindAdjunction ..
+-- variable (R) in
+-- @[simps! counit_app_hom_hom unit_app_hom_hom]
+-- noncomputable abbrev resCoindAdjunction' : res% R f ⊣ coindFunctor R f :=
+--   resCoindAdjunction ..
 
-instance : (res% R f).IsRightAdjoint :=
-  (indResAdjunction' R f).isRightAdjoint
+-- instance : (res% R f).IsRightAdjoint :=
+--   (indResAdjunction' R f).isRightAdjoint
```
Comment (kbuzzard) [inline ClassFieldTheory/Cohomology/Functors/Restriction.lean]: Remove all this dead code? Unless you need it for some reason?

File: ClassFieldTheory/Cohomology/Functors/Restriction.lean [hunk 4]
```diff
@@ -132,49 +166,49 @@ lemma isZero_res_iff (M : Rep R G) {H : Type u} [Group H] (φ : H →* G) :
...
+      mono_f := by simp_all [mono_iff_injective]
+      epi_g := by simp_all [epi_iff_surjective]
     }
+end monoid
 
-@[simp] lemma norm_hom_res [Fintype G] [Fintype H] (M : Rep R G) (e : H ≃* G) :
-    (M ↓ e.toMonoidHom).norm.hom = M.norm.hom := by
+section
+
+set_option linter.unusedFintypeInType false
```
Comment (kbuzzard) [inline ClassFieldTheory/Cohomology/Functors/Restriction.lean]: What is this all about?

File: ClassFieldTheory/Cohomology/IndCoind/Finite.lean [hunk 5]
```diff
@@ -3,9 +3,7 @@ module
 public import ClassFieldTheory.Cohomology.Functors.Inflation
 public import ClassFieldTheory.Mathlib.LinearAlgebra.Finsupp.Defs
 public import ClassFieldTheory.Mathlib.RepresentationTheory.Rep
-public import Mathlib.Data.Finsupp.Notation
-public import Mathlib.FieldTheory.Galois.NormalBasis
-public import Mathlib.RepresentationTheory.FiniteIndex
+public import Mathlib
```
Comment (kbuzzard) [inline ClassFieldTheory/Cohomology/IndCoind/Finite.lean]: Maybe remove this?

File: ClassFieldTheory/Cohomology/IndCoind/Finite.lean [hunk 6]
```diff
@@ -178,13 +183,13 @@ with value `V`. If `ρ` is a representation of `G` on `V`, then this map intertw
...
-/--
-The map `coind₁'_ι` intertwines a representation `ρ` of `G` on `V` with the
-representation `ρ.coind₁'` of `G` on `G → V`.
--/
-lemma coind₁'_ι_comm (g : G) : coind₁' ρ g ∘ₗ coind₁'_ι = coind₁'_ι ∘ₗ ρ g := by ext; simp
+-- /--
+-- The map `coind₁'_ι` intertwines a representation `ρ` of `G` on `V` with the
+-- representation `ρ.coind₁'` of `G` on `G → V`.
+-- -/
+-- lemma coind₁'_ι_comm (g : G) : coind₁' ρ g ∘ₗ coind₁'_ι = coind₁'_ι ∘ₗ ρ g := by ext; simp
```
Comment (kbuzzard) [inline ClassFieldTheory/Cohomology/IndCoind/Finite.lean]: Maybe remove this?

File: ClassFieldTheory/Cohomology/IndCoind/TrivialCohomology.lean [hunk 7]
```diff
@@ -147,30 +150,32 @@ instance trivialTateCohomology_coind₁AsPi : TrivialTateCohomology (Rep.coind
...
-      LinearMap.mem_ker, LinearMap.coe_sum, Finset.sum_apply,
-      Representation.coind₁AsPi_apply, Pi.zero_apply]
+    simp only [res_obj_V, res_obj_ρ, Representation.norm, MonoidHom.coe_comp, Subgroup.coe_subtype,
+      Function.comp_apply, ModuleCat.isZero_of_iff_subsingleton,
+      Submodule.Quotient.subsingleton_iff, Submodule.submoduleOf_eq_top, SetLike.le_def,
+      LinearMap.mem_ker, LinearMap.coe_sum, Finset.sum_apply, funext_iff,
+      Representation.coind₁AsPi_apply, Pi.ofNat_apply]
     -- This is equivalent to...
-    change ∀ f : G → A, (∀ x, ∑ h : H, f (x * h) = 0) → f ∈ Representation.Coinvariants.ker _
+    -- change ∀ f : G → A, (∀ x, ∑ h : H, f (x * h) = 0) → f ∈ Representation.Coinvariants.ker _
```
Comment (kbuzzard) [inline ClassFieldTheory/Cohomology/IndCoind/TrivialCohomology.lean]: Remove this?

File: ClassFieldTheory/Cohomology/LeftRegular.lean [hunk 8]
```diff
@@ -70,44 +68,43 @@ lemma H0Iso_res_norm {H : Type} [Group H] [Fintype H] (φ : H →* G) (g : G) :
...
-    simp only [res_obj_V, res_obj_ρ', of_ρ, AddSubmonoidClass.coe_finset_sum,
-      Submodule.coe_smul_of_tower, Finsupp.ext_iff,
-      coe_finset_sum, coe_smul, Finset.sum_apply, Pi.smul_apply, leftRegular.of_apply (R := R),
-      Finset.sum_boole, smul_eq_mul]
-    intro a
+    ext a
+    simp only [res_obj_V, res_obj_ρ, AddSubmonoidClass.coe_finset_sum, SetLike.val_smul,
+      coe_finset_sum, coe_smul, Finset.sum_apply, Pi.smul_apply, single_apply, Finset.sum_boole,
+      smul_eq_mul]
+    -- intro a
```
Comment (kbuzzard) [inline ClassFieldTheory/Cohomology/LeftRegular.lean]: ??

File: ClassFieldTheory/Mathlib/Algebra/Homology/ShortComplex/Rep.lean [hunk 9]
```diff
@@ -6,33 +6,54 @@ Authors: Kenny Lau
...
-instance : PreservesColimits (forget₂ (Rep k G) Ab) := comp_preservesColimits _ _
-
-theorem CategoryTheory.ShortComplex.rep_exact_iff
-    {k G : Type u} [CommRing k] [Monoid G] {S : ShortComplex (Rep k G)} :
-    S.Exact ↔ ∀ x₂, S.g x₂ = 0 → ∃ x₁, S.f x₁ = x₂ :=
-  CategoryTheory.ShortComplex.exact_iff_of_hasForget S
+-- instance : HasForget₂ (Rep.{w} k G) Ab where
+--   forget₂ := forget₂ (Rep k G) (ModuleCat k) ⋙ (forget₂ _ _)
+
+-- instance : (forget₂ (Rep.{w} k G) Ab).Additive := ⟨rfl⟩
```
Comment (kbuzzard) [inline ClassFieldTheory/Mathlib/Algebra/Homology/ShortComplex/Rep.lean:22]: Kill this dead code?

File: ClassFieldTheory/Mathlib/RepresentationTheory/Invariants.lean [hunk 10]
```diff
@@ -7,24 +7,26 @@ public import Mathlib.RepresentationTheory.Homological.GroupCohomology.Functoria
...
-lemma Rep.forget₂_obj (M) : (forget₂ (Rep k G) (ModuleCat k)).obj M = M.V := rfl
+-- @[simp]
+-- lemma Rep.forget₂_obj (M) : (forget₂ (Rep k G) (ModuleCat k)).obj M = M.V := rfl
 
-@[simp]
-lemma Rep.forget₂_map {M N : Rep k G} (f : M ⟶ N) :
-    (forget₂ (Rep k G) (ModuleCat k)).map f = f.hom := rfl
+-- @[simp]
+-- lemma Rep.forget₂_map {M N : Rep k G} (f : M ⟶ N) :
+--     (forget₂ (Rep k G) (ModuleCat k)).map f = f.hom := rfl
```
Comment (kbuzzard) [inline ClassFieldTheory/Mathlib/RepresentationTheory/Invariants.lean]: kill this dead code?

File: ClassFieldTheory/Mathlib/RepresentationTheory/Rep.lean [hunk 11]
```diff
@@ -1,88 +1,46 @@
 module
 
-public import ClassFieldTheory.Mathlib.Data.Finsupp.Single
-public import Mathlib.RepresentationTheory.Basic
-public import Mathlib.RepresentationTheory.Rep
+public import Mathlib.Data.Finsupp.Single
+-- public import Mathlib.RepresentationTheory.Basic
```
Comment (kbuzzard) [inline ClassFieldTheory/Mathlib/RepresentationTheory/Rep.lean]: kill this?

File: ClassFieldTheory/Mathlib/RepresentationTheory/Rep.lean [hunk 12]
```diff
@@ -93,95 +51,51 @@ theorem _root_.range_eq_span {R : Type*} [CommSemiring R] (n : ℕ) :
...
+-- instance :
+--     AddMonoidHomClass (Action.HomSubtype (ModuleCat R) G (leftRegular R G) (trivial R G R))
+--       (leftRegular R G) (trivial R G R) where
+--   map_add f := map_add f.val
+--   map_zero f := map_zero f.val
+
+-- instance :
+--     MulActionHomClass (Action.HomSubtype (ModuleCat R) G (leftRegular R G) (trivial R G R))
+--       R (leftRegular R G) (trivial R G R) where
+  -- map_smulₛₗ f := map_smul f.val
```
Comment (kbuzzard) [inline ClassFieldTheory/Mathlib/RepresentationTheory/Rep.lean]: kill this dead code?

File: ClassFieldTheory.lean [hunk 13]
```diff
@@ -1,111 +1,105 @@
...
+import ClassFieldTheory.Mathlib.RingTheory.Valuation.ValuativeRel
+import ClassFieldTheory.Mathlib.SetTheory.Cardinal.Finite
+import ClassFieldTheory.Mathlib.Topology.Algebra.Group.Basic
+import ClassFieldTheory.Mathlib.Topology.Algebra.IsUniformGroup.Basic
+import ClassFieldTheory.Mathlib.Topology.Algebra.Module.FiniteDimension
+import ClassFieldTheory.Mathlib.Topology.Algebra.Monoid
+import ClassFieldTheory.Mathlib.Topology.Algebra.Ring.Basic
+import ClassFieldTheory.Mathlib.Topology.Algebra.Valued.NormedValued
+import ClassFieldTheory.Mathlib.Topology.Algebra.Valued.ValuativeRel
+import ClassFieldTheory.Tactic.Dualize
```
Comment (kbuzzard) [inline ClassFieldTheory.lean]: Did you intend to stop using the module system?

**Review by kbuzzard — APPROVED** [review]

File: ClassFieldTheory/Cohomology/Functors/Restriction.lean (hunk 2 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Cohomology/Functors/Restriction.lean]: removed!

File: ClassFieldTheory/Cohomology/Functors/Restriction.lean (hunk 3 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Cohomology/Functors/Restriction.lean]: yes this is now all in mathlib, removed!

File: ClassFieldTheory/Cohomology/Functors/Restriction.lean (hunk 4 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Cohomology/Functors/Restriction.lean]: this could be removed now :-)

File: ClassFieldTheory/Cohomology/IndCoind/Finite.lean (hunk 5 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Cohomology/IndCoind/Finite.lean]: removed!

File: ClassFieldTheory/Cohomology/IndCoind/Finite.lean (hunk 6 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Cohomology/IndCoind/Finite.lean]: removed!

File: ClassFieldTheory/Cohomology/Functors/Restriction.lean (hunk 1 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Cohomology/Functors/Restriction.lean]: removed!

File: ClassFieldTheory.lean (hunk 13 above)
Comment (Whysoserioushah) [reply ClassFieldTheory.lean]: no of course not, I just ran `lake exe mk_all` and it just becomes that :-(

File: ClassFieldTheory/Mathlib/RepresentationTheory/Rep.lean (hunk 11 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Mathlib/RepresentationTheory/Rep.lean]: changed

File: ClassFieldTheory/Mathlib/RepresentationTheory/Rep.lean (hunk 12 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Mathlib/RepresentationTheory/Rep.lean]: killed!

File: ClassFieldTheory/Mathlib/Algebra/Homology/ShortComplex/Rep.lean (hunk 9 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Mathlib/Algebra/Homology/ShortComplex/Rep.lean:22]: killed

File: ClassFieldTheory/Mathlib/RepresentationTheory/Invariants.lean (hunk 10 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Mathlib/RepresentationTheory/Invariants.lean]: killed

File: ClassFieldTheory.lean (hunk 13 above)
Comment (Whysoserioushah) [reply ClassFieldTheory.lean]: reverted

File: ClassFieldTheory/Cohomology/LeftRegular.lean (hunk 8 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Cohomology/LeftRegular.lean]: removed

File: ClassFieldTheory/Cohomology/IndCoind/TrivialCohomology.lean (hunk 7 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Cohomology/IndCoind/TrivialCohomology.lean]: removed

**Comment by kbuzzard** [comment]
Thanks!
